US06603005B2
19 g of triphenylphosphine dibromide were added to a solution of 5.39 g of 3-chloro-4-hydroxy-6,7-dimethoxyquinoline in 270 cm3 of acetonitrile, with stirring and at a temperature in the region of 20° C. The reaction mixture was heated at about 80° C. for 8.25 hours. After cooling to a temperature in the region of 20° C., the insoluble material was filtered off. 5.67 g of 4-bromo-3-chloro-6,7-dimethoxyquinoline were obtained in the form of a gray solid.

reactant | triphenylphosphine dibromide | 19 g | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-chloro-4-hydroxy-6,7-dimethoxyquinoline | 5.39 g | ClC=1C=NC2=CC(=C(C=C2C1O)OC)OC | C11H10ClNO3
solvent | acetonitrile | 270 cm3 | C(C)#N | C2H3N
product | 4-bromo-3-chloro-6,7-dimethoxyquinoline | 5.67 g | BrC1=C(C=NC2=CC(=C(C=C12)OC)OC)Cl | C11H9BrClNO2
